### PR TITLE
[Merged by Bors] - feat(Topology/Sheaves): points of the site of a topological space and specializations

### PR DESCRIPTION
**Pull request by joelriou**
In this PR, we show that there is at most one morphism between two points of the site `(Opens X, grothendieckTopology X)` when `X` is a topological space, and that for points corresponding to elements `x : X` and `y : X`, such a morphism exists if and only if `x` specializes to `y`.

---

- [x] depends on: #35759
- [x] depends on: #35175

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Point/Basic.lean [hunk 1]
```diff
@@ -285,6 +285,36 @@ instance : PreservesColimitsOfSize.{w, w} (Φ.presheafFiber (A := A)) where
...
+noncomputable def isTerminalFiberObj (T : C) (hT : IsTerminal T) :
+    IsTerminal (Φ.fiber.obj T) :=
+  IsTerminal.isTerminalObj _ _ hT
+
+/-- The fiber of the terminal object contains a unique element. -/
+noncomputable def uniqueFiberObj (T : C) (hT : IsTerminal T) :
+    Unique (Φ.fiber.obj T) :=
+  Types.isTerminalEquivUnique _ (Φ.isTerminalFiberObj T hT)
+
+lemma injective_fiber_map_of_mono {U T : C} (f : U ⟶ T) [Mono f] :
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Sites/Point/Basic.lean]:
```suggestion
lemma fiber_map_injective_of_mono {U T : C} (f : U ⟶ T) [Mono f] :
```
.

File: Mathlib/Topology/Sheaves/Points.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
...
+
+variable (X) in
+/-- When `X` is a topological space, this is the obvious conservative family of
+points on the site `(Opens X, Opens.grothendieckTopology X)`. -/
+def pointsGrothendieckTopology : ObjectProperty (Point.{u} (grothendieckTopology X)) :=
+  ObjectProperty.ofObj pointGrothendieckTopology
+  deriving ObjectProperty.Small.{u}
+
+variable (X) in
+lemma isConservative_pointsGrothendieckTopology :
```
Comment (chrisflav) [inline Mathlib/Topology/Sheaves/Points.lean]:
```suggestion
lemma isConservativeFamilyOfPoints_pointsGrothendieckTopology :
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

File: Mathlib/CategoryTheory/Sites/Point/Basic.lean [hunk 3]
```diff
@@ -285,6 +285,36 @@ instance : PreservesColimitsOfSize.{w, w} (Φ.presheafFiber (A := A)) where
...
+  Types.isTerminalEquivUnique _ (Φ.isTerminalFiberObj T hT)
+
+lemma fiber_map_injective_of_mono {U T : C} (f : U ⟶ T) [Mono f] :
+    Function.Injective (Φ.fiber.map f) := by
+  rw [← mono_iff_injective]
+  infer_instance
+
+lemma subsingleton_fiber_obj {U T : C} (f : U ⟶ T) [Mono f] (hT : IsTerminal T) :
+    Subsingleton (Φ.fiber.obj U) where
+  allEq _ _ := Φ.injective_fiber_map_of_mono f (by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Point/Basic.lean]:
```suggestion
  allEq _ _ := Φ.fiber_map_injective_of_mono f (by
```
